US05869661
Synthesis of 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-7-pyrrolidino-3-quinolinecarboxylic acid
A mixture of 2.95 g of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (10 mmol), 1.42 g of pyrrolidine (20 mmol), 1.04 g of trimethoxyborane (10 mmol) and 20 ml of acetonitrile was refluxed with heating for 3.5 hours. The reaction solution was cooled to room temperature, acetonitrile was distilled under vacuum and 15 ml of ethanol was added into the resultant product. Separated crystals were filtered and dried to obtain 3.05 g of the objective compound (88.2%).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 10 mmol, 2.95 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | pyrrolidine | 20 mmol, 1.42 g | N1CCCC1 | C4H9N
reactant | trimethoxyborane | 10 mmol, 1.04 g | COB(OC)OC | C3H9BO3
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-7-pyrrolidino-3-quinolinecarboxylic acid | 3.05 g, 88.2% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CCCC1)F)=O)C(=O)O | C18H19FN2O4
